US06448281B1
Formation of the Benzimidazole Ring
Each resin was suspended in DMF (200 μL) and a 1 M solution of the aldehyde in DMF was added (0.20 mmol, 200 μL), followed by a 0.25 M solution of chloranil in NMP (0.20 mmol, 800 μL). The resins were shaken for 18 h, the liquid was drained and the resins were washed successively with 1.2-mL portions of NMP (3×), 1 M DIEA/NMP (2×), NMP (3×), MeOH (3×) and DCM (4×). The reaction block was placed in a vacuum chamber for 30 min in order to dry the resin.

reactant | chloranil | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | NMP | 0.20 mmol, 800 μL | CN1CCCC1=O | C5H9NO
reactant | DMF | 200 μL | CN(C)C=O | C3H7NO
product | Benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
